US06169090A
2-Ethyl-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid (2,6-dichloro-4-cyanophenyl)amide
Starting from 2-ethyl-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid 4-nitrophenyl ester (0.10 g) and 4-amino-3,5-dichlorobenzonitrile (0.12 g). Purification by column chromatography on silica with 20% then 30% then 50% ethyl acetate in hexane to give the title compound (0.051 g) as a cream solid.

reactant | 2-ethyl-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid 4-nitrophenyl ester | 0.10 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)C=1C2=C(C(=NC1)OC)OC(=C2)CC | C17H14N2O6
reactant | 4-amino-3,5-dichlorobenzonitrile | 0.12 g | NC1=C(C=C(C#N)C=C1Cl)Cl | C7H4Cl2N2
product | 2-Ethyl-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid (2,6-dichloro-4-cyanophenyl)amide | 0.051 g | ClC1=C(C(=CC(=C1)C#N)Cl)NC(=O)C=1C2=C(C(=NC1)OC)OC(=C2)CC | C18H13Cl2N3O3
